US06215016B1
In 100 mL of methanol, was dissolved 5.90 g (50.0 mmol) of monomethyl malonate, and the resulting solution was mixed with 2.86 g (25 mmol) of magnesium ethoxide followed by stirring at room temperature for 4 hours. The reaction solution was concentrated and the residue was dried under reduced pressure. In 100 mL of tetrahydrofuran, was dissolved 2.80 g (25 mmol) of 2-furancarboxylic acid and the resulting solution was mixed with 4.45 g (27.4 mmol) of carbonyldiimidazole, followed by stirring for 1 hour. The reaction solution was added to a dry magnesium salt and stirred at room temperature for 19 hours. The reaction solution was concentrated; the residue was mixed with 100 mL of 1.5 N hydrochloric acid, extracted with ethyl acetate, and washed with an aqueous sodium hydrogencarbonate solution and saturated sodium chloride water. The resultant was dried over sodium sulfate anhydride, filtered, and concentrated. The residue was distilled (0.06 mmHg, 69 to 75) to give 2.93 g (17.4 mmol, 69.6%) of methyl 2-furancarbonylacetate as an anhydrous liquid. Similarly to Example 133, 65 mg (1.34 mmol, 58.1%) of dark yellow crystals were obtained from 2.93 g (17.4 mmol) of methyl 2-furancarbonylacetate.

reactant | monomethyl malonate | 50.0 mmol, 5.90 g | C(CC(=O)[O-])(=O)OC
reactant | magnesium ethoxide | 25 mmol, 2.86 g | [O-]CC.[Mg+2].[O-]CC
reactant | 2-furancarboxylic acid | 25 mmol, 2.80 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | carbonyldiimidazole | 27.4 mmol, 4.45 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methanol | 100 mL | CO | CH4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 2-furancarbonylacetate | 17.4 mmol, 2.93 g, 69.6% | O1C(=CC=C1)C(=O)CC(=O)OC | C8H8O4
